US07566736B2
3-(4-Nitrophenyl)-1H-indole-2-carboxamide
A solution of 0.5 g of ammonium chloride in 30 ml of concentrated aqueous ammonia is added to a solution of 3.3 g of ethyl 3-(4-nitrophenyl)-1H-indole-2-carboxylate in 50 ml of 7N methanolic ammonia. The solution is then heated in a sealed tube at 125° C. for 15 hours. After cooling, the solid formed is filtered off, washed with water, and then filter-dried. After drying under vacuum, 1.5 g of 3-(4-nitrophenyl)-1H-indole-2-carboxamide are obtained, the characteristics of which are as follows:

reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ethyl 3-(4-nitrophenyl)-1H-indole-2-carboxylate | 3.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C(=O)OCC | C17H14N2O4
solvent | ammonia | 30 ml | N | H3N
solvent | ammonia | 7N, 50 ml | N | H3N
product | 3-(4-Nitrophenyl)-1H-indole-2-carboxamide | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(NC2=CC=CC=C12)C(=O)N | C15H11N3O3
